US08236798B2
73.2 tert-Butyl 1-benzyl-2-(3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoyl)hydrazinecarboxylate
NaOH (1 M in water, 2 mL, 2 mmol) and di-tert-butyldicarbonate (Boc2O) (144 mg, 0.659 mmol) were added to a mixture of (2R)-1-benzyl-N-(4-(2-benzylhydrazinyl)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide (300 mg, 0.599 mmol) in t-BuOH (6 mL). After stiffing overnight water (20 mL) was added and the mixture was extracted with EtOAc. The combined organic layers were washed with saturated aqueous NaHCO3 solution, water and dried (MgSO4). Purification by flash column chromatography (gradient 1-10% MeOH in DCM) provided the title compound (130 mg, 36%).

reactant | NaOH | 2 mmol, 1 M, 2 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 0.659 mmol, 144 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R)-1-benzyl-N-(4-(2-benzylhydrazinyl)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide | 0.599 mmol, 300 mg | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(CC1=CC=CC=C1)C(C(=O)NNCC1=CC=CC=C1)O | C29H32N4O4
reactant | water | 20 mL | O | H2O
solvent | t-BuOH | 6 mL | CC(C)(C)O | C4H10O
product | tert-Butyl 1-benzyl-2-(3-((R)-1-benzyl-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoyl)hydrazinecarboxylate | 130 mg, 36% | C(C1=CC=CC=C1)N(NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=CC=CC=C1)O)=O)C(=O)OC(C)(C)C | C34H40N4O6
